US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (pyridin-3-ylmethyl)-amide (Z-isomer)
The title compound was prepared from 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and (3-pyridyl)methylamine according to Procedure K: mp 211-215° C.; Anal. Calcd for C21H18N6O4S.H2O: C, 53.84; H, 4.30; N, 17.94. Found: C, 54.29; H, 4.03; N, 17.82.

reactant | 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | (3-pyridyl)methylamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O | C21H18N6O4S
